US05434181
A mixture comprising 0.7 g of 1-{(tetrahydro-3-furanyl)methyl}-2-(nitroimino)-3,5-dimethylhexahydro-1,3,5-triazine, 5 ml of 1 N hydrochloric acid and 5 ml of ethanol was stirred at 40° C. for an hour. The reaction fluid was concentrated under a reduced pressure and purified by column chromatography to obtain 0.4 g of 1-{(tetrahydro-3-furanyl)methyl}-2-nitro-3-methylguanidine.

reactant | 1-{(tetrahydro-3-furanyl)methyl}-2-(nitroimino)-3,5-dimethylhexahydro-1,3,5-triazine | 0.7 g | O1CC(CC1)CN1C(N(CN(C1)C)C)=N[N+](=O)[O-] | C10H19N5O3
reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-{(tetrahydro-3-furanyl)methyl}-2-nitro-3-methylguanidine | 0.4 g | O1CC(CC1)CNC(=N[N+](=O)[O-])NC | C7H14N4O3
